US06413982B1
2-(3-Methoxy-2-phenylquinolin-4-yl)-5-phenyl-5-propyl-2-oxazoline
Triphenylphosphine (2.10 g, 8.0 mmol) is added to a mixture of (3-methoxy-2-phenylquinolin-4-yl)carboxylic acid (0.61 g, 2.2 mmol), pyridine (anhydrous, 5 mL), acetonitrile (anhydrous, 5 mL), triethylamine (1.4 mL, 10 mmol), 1-amino-2-phenyl-2-pentanol (0.40 g, 2.2 mmol), and carbon tetrachloride (1.5 mL, 16 mmol) stirred under nitrogen at ambient temperature. After stirring for 1 h without heating, the mixture is stirred at 40° C. for 2 h. The reaction mixture is dissolved in chloroform (100 mL). The solution is washed with 10% acetic acid (100 mL) followed by 5% sodium bicarbonate (100 mL) and dried over sodium carbonate. The solvent is evaporated under reduced pressure. The crude product is subjected to column chromatography on silica gel using chloroform-diethyl ether (49:1) and then to preparative TLC using hexanes-diethyl ether (3:1) as an eluent to give the titled compound (160 mg, 17%). 1H NMR (CDCl3) δ0.93(t, J=7.5 Hz, 3 H), 1.32 (m, 1 H), 1.48 (m, 1 H), 2.13 (m, 2 H), 3.60 (s, 3 H), 4.35 (d, J=14.6 Hz, 1 H), 4.40 (d, J=14.6 Hz, 1 H), 7.31 (tt, J=7.1 and 1.5 Hz, 1 H), 7.40 (t, J=7.4 Hz, 2 H), 7.43-7.56 (m, 6 H), 7.67 (ddd, J=8.2, 6.9 and 1.5 Hz, 1 H) 7.96 (dd, J=8.4 and 1.5 Hz, 1 H), 8.07 (m, 2 H), 8.17 (d, J=8.5 Hz, 1 H). LC-MS data (same condition as given in example 1): HPLC: 2.62 min. MS (ES+): m/e 407 [MH]+.

reactant | Triphenylphosphine | 8.0 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (3-methoxy-2-phenylquinolin-4-yl)carboxylic acid | 2.2 mmol, 0.61 g | COC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C17H13NO3
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 1-amino-2-phenyl-2-pentanol | 2.2 mmol, 0.40 g | NCC(CCC)(O)C1=CC=CC=C1 | C11H17NO
reactant | carbon tetrachloride | 16 mmol, 1.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3-Methoxy-2-phenylquinolin-4-yl)-5-phenyl-5-propyl-2-oxazoline | 160 mg, 17% | COC=1C(=NC2=CC=CC=C2C1C=1OC(CN1)(CCC)C1=CC=CC=C1)C1=CC=CC=C1 | C28H26N2O2
